US09055749B2
Step 2. Synthesis of 4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl acetate
Under argon atmosphere, t-BuOK (0.36 g) was slowly added to 2-bromo-4-{[(trimethylsilyl)methyl]carbamothioyl}benzyl acetate (1.0 g) and iodomethane (0.45 g) in THF at −10° C., and the resultant mixture was stirred for 30 minutes at the same temperature. 2,6-bis(trifluoromethyl)-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine (1.1 g) was added to the reaction mixture, and then n-Bu4NF in THF (0.25 ml, 1M solution) was slowly added to the mixture at −10° C. under argon atmosphere. After stirring the resultant blend for 30 minutes at the same temperature, the blend was allowed to slowly warm to room temperature. The blend was stirred at room temperature overnight. The blend was diluted with t-BuOMe, and washed with 1N HCl and brine. The organic layer was dried over MgSO4. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography to get the targeted product (0.58 g).

reactant | t-BuOK | 0.36 g | CC(C)(C)[O-].[K+]
reactant | 2-bromo-4-{[(trimethylsilyl)methyl]carbamothioyl}benzyl acetate | 1.0 g | C(C)(=O)OCC1=C(C=C(C=C1)C(NC[Si](C)(C)C)=S)Br | C14H20BrNO2SSi
reactant | iodomethane | 0.45 g | IC | CH3I
reactant | 2,6-bis(trifluoromethyl)-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine | 1.1 g | FC(C1=NC(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F)(F)F | C10H4F9N
reactant | n-Bu4NF | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1M, 0.25 ml | C1CCOC1 | C4H8O
solvent | t-BuOMe | C(C)(C)(C)OC | C5H12O
product | 4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromobenzyl acetate | 0.58 g | C(C)(=O)OCC1=C(C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F)Br | C21H14BrF9N2O2
